US07238716B2
To a mixture of methyl 3-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]benzoate (2.20 g) and tetrahydrofuran (80 mL) was added lithium aluminum hydride (0.19 g) under ice-cooling, and the mixture was stirred for 2 hrs. The reaction mixture was poured into iced water, acidified with 2N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The obtained oil was dissolved in toluene (80 mL). Manganese dioxide (6.0 g) was added to the mixture and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was filtrated and the filtrate was concentrated. The residue was subjected to silica gel column chromatography to give 3-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]benzaldehyde as an oil (1.55 g, yield 76%) from a fraction eluted with ethyl acetate-hexane (1:3, v/v).

reactant | methyl 3-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]benzoate | 2.20 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(CSC=2C=C(C(=O)OC)C=CC2)C=CC1 | C26H23NO4S
reactant | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | 0.19 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
product | 3-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]benzaldehyde | 1.55 g, yield 76% | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(CSC=2C=C(C=O)C=CC2)C=CC1 | C25H21NO3S
